Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
___ cardioversion - ___

 
History of Present Illness:
___ with AFib s/p DCCV ___ on apixaban, bicuspid aortic 
valve with mild AS, hyperlipidemia, OSA on CPAP, sarcoidosis, 
presents with dyspnea, AFib with RVR, acute CHF.  
 ___ was recently admitted in ___ for AFib with RVR. ___ was 
treated with IV diltiazem and transitioned to oral agents. ___ 
was given Lasix 20 IV for mild volume overload. ___ had sinus 
pauses on telemetry thought to be due to OSA. ___ was started on 
apixaban for anticoagulation. On ___, ___ had elective ___ 
with successful electrical cardioversion of atrial fibrillation 
to sinus rhythm.  
 ___ was seen by Dr. ___ on ___. The patient was noticed 
to be in acute heart failure but the patient strongly preferred 
outpatient treatment and so his torsemide dose was increased 
from 40mg to 120mg. ___ had some success with this and lost 14 
lbs. ___ uses 3 pillows at baseline and has recent PND. Over past 
day, ___ developed increasing dyspnea on exertion. ___ presented 
to ___ ED, BNP was ___, troponin negative, and ___ was 
transferred here.  
 In the ED, initial vital signs were: 98.3 100 ___ 95% RA  

 - Labs were notable for: WBC stable. K 3.2. Mg 1.8. BUN/Cr 
___. TnT neg. BNP 1317 (prior ___)  
 - Imaging: OSH CXR R hilar adenopathy, mild R basilar 
patchiness, no significant change from prior CXR ___  
 - The patient was given:  
 ___ 21:48 PO/NG Apixaban 5 mg  
 ___ 23:57 IV Furosemide 80 mg  
 - Consults: Atrius Cards- admit  
 Upon arrival to the floor, patient has no complaints.  
 ROS per HPI otherwise negative in 14-point review. 
 
Past Medical History:
Venous stasis  
A-fib s/p cardioversion in ___  
OSA (obstructive sleep apnea) on cpap  
Lymphadenopathy  
Hypertension  
Aortic stenosis, mild  
ED (erectile dysfunction)  
Hyperlipidemia  
Mediastinal adenopathy - found to have sarcoid ___ 
 
Social History:
___
Family History:
Father died at ___ getting CABG  
Twin brothers died from alpha 1 antitrypsin
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T98.1 ___ 21 96RA 153.5kg  
 GEN: Morbidly obese middle aged male in no distress  
 NECK: JVP not visible due to thick neck  
 HEART: Irreg irreg, normal S1 S2, no murmurs  
 LUNGS: Basilar crackles  
 ABD: Soft, NT, mildly distended, normal BS  
 EXT: 3+ edema to calves bilaterally, 2+ DP and ___ pulses  

DISCHARGE PHYSICAL EXAM:

VS: T97.8 103/82-128/83  ___ 98RA and CPAP
I/O: 8hr: ___ 24hr: 1320/3350
Weight: 153.5-> 150.2 -> 150-> 149.3->149.4
GEN: Morbidly obese middle aged male in no distress , sitting in 
recliner chair 
NECK: JVP difficult to assess w thick neck
 HEART: Distant heart sounds, regular, no murmurs  
 LUNGS: CTAB, no wheezes, crackles, rhonchi
 ABD: Soft, NT, mildly distended, normal BS  
 EXT: 1+ edema to knees bilaterally, 2+ DP pulses, R foot 
minimal erythema of R MTP, improved
 
Pertinent Results:
ADMISSION LABS:
___ 09:45PM BLOOD WBC-7.3 RBC-4.48* Hgb-13.5* Hct-40.6 
MCV-91 MCH-30.1 MCHC-33.3 RDW-14.7 RDWSD-48.3* Plt ___
___ 09:45PM BLOOD Glucose-94 UreaN-15 Creat-0.8 Na-137 
K-3.2* Cl-96 HCO3-28 AnGap-16
___ 09:45PM BLOOD ___ PTT-34.1 ___
___ 06:30AM BLOOD ALT-18 AST-20 AlkPhos-56 TotBili-0.8
___ 09:45PM BLOOD proBNP-1317*
___ 09:45PM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD cTropnT-<0.01
___ 09:45PM BLOOD Calcium-9.2 Phos-3.6 Mg-1.8
___ 09:51PM BLOOD Lactate-1.3

DISCHARGE LABS:

___ 01:40PM BLOOD WBC-6.8 RBC-4.50* Hgb-13.4* Hct-41.5 
MCV-92 MCH-29.8 MCHC-32.3 RDW-14.5 RDWSD-49.0* Plt ___
___ 03:04PM BLOOD ___
___ 01:40PM BLOOD Glucose-113* UreaN-22* Creat-0.9 Na-133 
K-4.1 Cl-95* HCO3-26 AnGap-16
___ 01:40PM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2

MICRO

IMAGING:

___ CXR:
 
Limited exam for which repeat is suggested for more detailed 
evaluation.  
Enlarged right hilum could be due to pulmonary artery 
enlargement or 
underlying adenopathy and attention suggested on followup. 

 
Brief Hospital Course:
___ with AFib s/p DCCV ___ on apixaban, bicuspid aortic 
valve with mild AS, hyperlipidemia, OSA on CPAP, sarcoidosis, 
presents with dyspnea, AFib with RVR, acute CHF. 

 # Afib with RVR. Symptomatic, up to 150s day of admission, 
started on sotalol with good effect in the hospital where QTc 
prolongation was monitored. Cardioversion performed ___ with 
return to sinus rhythm. Discharged on sotalol 160mg BID and 
apixaban due to h/o ___ clot in ___. Diltiazem was stopped 
because of conversion to sinus and presence of sotalol.  

 # Acute on chronic systolic and diastolic heart failure: Cause 
of acute decompensation is likely from tachycardia-induced 
cardiomyopathy given AF with RVR. Recent outpatient TTE with 
impaired EF down to ___ with moderate global hypokinesis, 
mild AS, mild MR. ___ was found to be in acute heart failure in 
outpatient setting, and failed outpatient trial of increased 
torsemide (from 40 to 120mg daily). Good diuresis on Lasix so 
discharged on Lasix 40mg BID. Potassium levels stable at this 
dose. Weight at discharge 149.4kg, which should be approximate 
dry weight. Started on spironolactone 25mg, lisinopril 2.5mg. 
Recommended low salt diet with 2000mL fluid restriction daily 
and f/u with cardiology and PCP.
   
#acute gouty flare: Describes having gout one previously. 
Morning of ___ complaining of R "foot" pain. R first MTP 
joint erythematous and swollen, tender to light touch. Given 
that ___ is anti-coagulated, colchicine is preferred first line 
treatment. Given 1.8mg day one and one week of 0.6mg 
prophylaxis.

# Elevated INR: Admission INR 1.6, increased from previous 
admission in ___, where INR was 1.3-1.4.  Likely from 
apixaban (can increase INR, though not predictable increases). 
 
 # OSA on CPAP. History of some sinus pauses during last 
admission, used CPAP well during admission.  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Sildenafil 20 mg PO DAILY:PRN ED 
3. Diltiazem 90 mg PO TID 
4. Torsemide 120 mg PO DAILY 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
2. Colchicine 0.6 mg PO ONCE Duration: 1 Dose 
Take for one week. 
RX *colchicine 0.6 mg 1 capsule(s) by mouth daily Disp #*10 
Capsule Refills:*0
3. Furosemide 40 mg PO BID 
Can take in the morning and mid-day. 
RX *furosemide 40 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0
4. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. Sotalol 160 mg PO BID 
RX *sotalol [Betapace] 160 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0
6. Spironolactone 25 mg PO DAILY 
RX *spironolactone [Aldactone] 25 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
7. Sildenafil 20 mg PO DAILY:PRN ED 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Atrial fibrillation with RVR
Acute on chronic systolic and diastolic heart failure (rEF with 
diastolic dysfunction)
Acute gouty flare

SECONDARY DIAGNOSES:
OSA on CPAP

 
Discharge Condition:
Discharge condition stable.
AOx3
Able to ambulate safely independently.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because your heart was beating very 
fast and in an irregular rhythm. This is called atrial 
fibrillation ("A-fib") with rapid ventricular response. We 
started you on a medication to help control the rhythm, called 
sotalol, and performed a procedure to stop the afib (this 
procedure is cardioversion).

You will need to keep taking the sotalol twice daily at home. 
You will stop the diltiazem you were taking, as well as the 
torsemide. You will keep taking the apixiban for blood thinner. 
You will also start Lasix twice daily, spironolactone daily and 
lisinopril daily.

New meds
==========
sotalol 160mg twice daily
Lasix 40mg twice daily
lisinopril 2.5mg daily
spironolactone 25mg daily

Stop taking these medications
=============================
diltiazem
torsemide

Keep taking these medications
================================
apixiban 

You will follow up with Dr. ___ in ___. They are making 
the appointment for you and you should be contacted.

Be Well,
your ___ team

 
Followup Instructions:
___